US08022222B2
Step G: Preparation of ethyl 2-(5-bromo-2-(4-phenethylthiazol-2-ylamino)pyridin-4-yl)acetate:
A flask was charged with ethyl 2-(5-bromo-2-thioureidopyridin-4-yl)acetate (2.200 g, 6.914 mmol), 1-bromo-4-phenylbutan-2-one (1.884 g, 8.297 mmol), DIEA (1.806 mL, 10.37 mmol) and ethanol (100 mL). The mixture was heated stirred at 70° C. for 2 hours, then cooled. The reaction was concentrated, and the residue was partitioned between chloroform and dilute sodium bicarbonate solution. The organic phase was washed with dilute sodium bicarbonate solution, dried over magnesium sulfate, filtered and evaporated. The solid residue was recrystallized from hexane/ethyl acetate to give the desired product (1.815 g, 58.81% yield) as a yellow solid.

reactant | ethyl 2-(5-bromo-2-thioureidopyridin-4-yl)acetate | 6.914 mmol, 2.200 g | BrC=1C(=CC(=NC1)NC(=S)N)CC(=O)OCC | C10H12BrN3O2S
reactant | 1-bromo-4-phenylbutan-2-one | 8.297 mmol, 1.884 g | BrCC(CCC1=CC=CC=C1)=O | C10H11BrO
reactant | DIEA | 10.37 mmol, 1.806 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | ethanol | 100 mL | C(C)O | C2H6O
product | ethyl 2-(5-bromo-2-(4-phenethylthiazol-2-ylamino)pyridin-4-yl)acetate | 1.815 g, 58.81% yield | BrC=1C(=CC(=NC1)NC=1SC=C(N1)CCC1=CC=CC=C1)CC(=O)OCC | C20H20BrN3O2S
